US05633360
5'-O-(4,4'-Dimethoxytrityl)-5-(1-pentynyl)-2'-deoxyuridine (2).
To 20.4 g (69.3 mmol) of 5-(1-pentynyl)-2'-deoxyuridine in 300 mL of dry pyridine was added 22.8 g of 4,4'-dimethoxytrityl chloride. The reaction was stirred for 17 h at room temperature and then concentrated. The residue was taken up in CH2Cl2 and washed twice with 0.5% aqueous NaHCO3, dried (Na2SO4), filtered, and concentrated. Purification of the crude product by column chromatography afforded 21.9 g (52.9% yield) of product.

reactant | 5-(1-pentynyl)-2'-deoxyuridine | 69.3 mmol, 20.4 g | C(#CCCC)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C14H18N2O5
reactant | 4,4'-dimethoxytrityl chloride | 22.8 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)Cl)C=C1 | C21H19ClO2
solvent | pyridine | 300 mL | N1=CC=CC=C1 | C5H5N
product | 5'-O-(4,4'-Dimethoxytrityl)-5-(1-pentynyl)-2'-deoxyuridine | 21.9 g, 52.9% yield | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H](C[C@@H](O2)N2C(=O)NC(=O)C(=C2)C#CCCC)O)C=C1 | C35H36N2O7
